US07723336B2
3-((6-((trans-4-aminocyclohexyl)amino)-7-methylimidazo[1,2-b]pyridazin-8-yl)amino)phenol
In a 2 dram reaction vial was added 3-(6-chloro-7-methylimidazo[1,2-b]pyridazin-8-ylamino)phenol (0.011 g, 0.028 mmol) from 1a and trans-1,4-diaminocyclohexane (1.0 g, 8.0 mmol). The mixture was allowed to melt at 160° C. for 24 hrs. The melt was then cooled, diluted with water and MeOH, and then purified by preparative HPLC to give 0.005 g of the title compound as a TFA salt. 1H NMR (400 MHz, MeOD) δ ppm 8.01 (1H, s), 7.73 (1H, s), 7.11 (1H, t, J=8.14 Hz), 6.48 (1H, d, J=7.63 Hz), 6.28 (1H, s), 3.88-4.10 (1H, m), 3.05-3.27 (1H, m), 2.24-2.37 (2H, m, J=8.65 Hz), 2.11-2.23 (5H, m), 1.45-1.70 (4H, m). LC/MS, m/e 353 (M+1). HPLC Rt, 1.20 min. YMC ODSC18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 3-(6-chloro-7-methylimidazo[1,2-b]pyridazin-8-ylamino)phenol | 0.028 mmol, 0.011 g | ClC=1C(=C(C=2N(N1)C=CN2)NC=2C=C(C=CC2)O)C | C13H11ClN4O
reactant | trans-1,4-diaminocyclohexane | 8.0 mmol, 1.0 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
product | 3-((6-((trans-4-aminocyclohexyl)amino)-7-methylimidazo[1,2-b]pyridazin-8-yl)amino)phenol | 0.005 g | N[C@@H]1CC[C@H](CC1)NC=1C(=C(C=2N(N1)C=CN2)NC=2C=C(C=CC2)O)C | C19H24N6O
